US07732448B2
0.07 g of sodium hydride (60% oil suspension) was suspended in 3 ml of tetrahydrofuran. 1 ml of tetrahydrofuran solution of 0.14 g of 2-ethylpiperidine was added dropwise at room temperature therein slowly, and the mixture was stirred for 10 minutes. Into the mixture was added dropwise 1 ml of tetrahydrofuran solution of 0.2 g of 4,6-dichloro-5-fluoropyrimidine at room temperature, and stirred for 4 hours. The reaction mixture was poured into a saturated ammonium chloride aqueous solution, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.22 g of 4-chloro-6-(2-ethylpiperidino)-5-fluoropyrimidine.

reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | 2-ethylpiperidine | 0.14 g | C(C)C1NCCCC1 | C7H15N
reactant | 4,6-dichloro-5-fluoropyrimidine | 0.2 g | ClC1=NC=NC(=C1F)Cl | C4HCl2FN2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-(2-ethylpiperidino)-5-fluoropyrimidine | 0.22 g | ClC1=NC=NC(=C1F)N1C(CCCC1)CC | C11H15ClFN3
